US07176242B2
To a −78° C. solution of thiazole (1.2 g) in THF (25 mL) was added n-butyl lithium (1.6 M in hexanes, 10 mL). The mixture was stirred for 30 min and then allowed to warm to 0° C. in an ice/water bath. Zinc chloride (1M in ethyl ether, 40 mL) was added and the mixture was stirred for 1 h, at which time methyl 3-[(dipropylamino)carbonyl]-5-iodobenzoate (5.1 g) in THF (20 mL) was added, followed by Pd(PPh3)4 (palladium tetrakis triphenylphosphine) (0.68 g). The mixture was then heated at 80° C. for 2 h, at which time it was allowed to cool and partitioned between ethyl acetate and water. The organic layers were washed with brine, dried (magnesium sulfate), and concentrated. The residue was chromatographed on silica gel using ethyl acetate/heptane (50/50) to give 4.5 g of methyl 3-[(dipropylamino)carbonyl]-5-(1,3-thiazol-2-yl)benzoate.

reactant | thiazole | 1.2 g | S1C=NC=C1 | C3H3NS
reactant | n-butyl lithium | 1.6 M, 10 mL | C(CCC)[Li]
reactant | methyl 3-[(dipropylamino)carbonyl]-5-iodobenzoate | 5.1 g | C(CC)N(C(=O)C=1C=C(C(=O)OC)C=C(C1)I)CCC | C15H20INO3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Zinc chloride | 1M, 40 mL | [Cl-].[Zn+2].[Cl-]
catalyst | Pd(PPh3)4 | 0.68 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-[(dipropylamino)carbonyl]-5-(1,3-thiazol-2-yl)benzoate | 4.5 g | C(CC)N(C(=O)C=1C=C(C(=O)OC)C=C(C1)C=1SC=CN1)CCC | C18H22N2O3S
